US05716993
5-Chloro-N-(3,4-methylenedioxybenzyl)-2-nitrobenzamide (620 mg), acetic acid (1 ml), water (1 ml) and ethanol (20 ml) were mildly heated together under reflux, followed by the addition of 1.0 g of powdered iron in portions under stirring. The obtained mixture was refluxed for one hour and filtered under heating to remove brown insolubles. The filtrate was concentrated, followed by the addition of ethanol. The resulting mixture was dissolved by heating. Concentrated hydrochloric acid was added to the obtained solution in portions, by which the brown solution turned yellow and transparent. This yellow transparent solution was seeded to give crystals. The resulting mixture was cooled and filtered to recover the crystals. The crystals were washed with ethanol and ether and dried to give 520 mg of 2-amino-5-chloro-N-(3,4-methylenedioxybenzyl)benzamide.

reactant | 5-Chloro-N-(3,4-methylenedioxybenzyl)-2-nitrobenzamide | 620 mg | ClC=1C=CC(=C(C(=O)NCC2=CC3=C(C=C2)OCO3)C1)[N+](=O)[O-] | C15H11ClN2O5
reactant | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
reactant | water | 1 ml | O | H2O
catalyst | iron | 1.0 g | [Fe] | Fe
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-amino-5-chloro-N-(3,4-methylenedioxybenzyl)benzamide | 520 mg | NC1=C(C(=O)NCC2=CC3=C(C=C2)OCO3)C=C(C=C1)Cl | C15H13ClN2O3
